US07705053B2
Production of 3-N-(5-chloro-pyridin-2-yl)-4-methoxyisophthalamide (Compound 1-3-31)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2-amino-5-chloro-pyridine by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2-amino-5-chloro-pyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | 3-N-(5-chloro-pyridin-2-yl)-4-methoxyisophthalamide | ClC=1C=CC(=NC1)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C14H12ClN3O3
